US09359350B2
(1) Synthesis of methyl 3-isopropyl-1H-indole-6-carboxylate [92-1](hereinafter referred to as a compound [92-1])
To a solution of methyl indole-6-carboxylate (497 mg) in dichloromethane (15 mL) were added aluminum chloride (831 mg) and 2-bromopropane (0.27 mL) at room temperature, and then the reaction mixture was stirred at room temperature for 1 hour. To the reaction mixture was added a saturated aqueous solution of sodium hydrogen carbonate, and extracted with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the titled compound (65 mg) as a white solid.

reactant | methyl indole-6-carboxylate | 497 mg | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | aluminum chloride | 831 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromopropane | 0.27 mL | BrC(C)C | C3H7Br
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methyl 3-isopropyl-1H-indole-6-carboxylate | 65 mg | C(C)(C)C1=CNC2=CC(=CC=C12)C(=O)OC | C13H15NO2
